US08486952B2
3-(4-(trifluoromethyl)phenyl)dihydro-2H-pyran-4(3H)-one (Intermediate Z(2)) was reacted as described in Intermediate X(3) with carbonisocyanatidic chloride to give 8-(4-(trifluoromethyl)phenyl)-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione (Intermediate Z(3)).

reactant | 3-(4-(trifluoromethyl)phenyl)dihydro-2H-pyran-4(3H)-one | FC(C1=CC=C(C=C1)C1COCCC1=O)(F)F | C12H11F3O2
reactant | carbonisocyanatidic chloride | C(=O)(N=C=O)Cl | C2ClNO2
product | 8-(4-(trifluoromethyl)phenyl)-7,8-dihydropyrano[3,4-e][1,3]oxazine-2,4(3H,5H)-dione | FC(C1=CC=C(C=C1)C1COCC=2C(NC(OC21)=O)=O)(F)F | C14H10F3NO4
